US03950565
2-(1-hydroxyethyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone was prepared as follows:
In a round-bottomed flask equipped with a stirrer and a condensor, 12.8 g (0.1 mole) of 2,5-dimethyl-4-hydroxy-3-(2H)-furanone and 44 g (1.0 mole) of acetaldehyde were introduced into a solution of 3.0 g of oxalic acid in 100 ml of water. The mixture was stirred and refluxed for 1 hour. After cooling, the mixture was extracted 5 times with 25 ml portions of chloroform and the organic solvent was evaporated off. The residue was purified by chromatography on 50 g of polyamide. After elution by means of a 50/50 mixture of ether and petroleum ether, 9.4 g of the title compound was obtained (which corresponds to a yield of 54%). Recrystallization from ether gave the pure product with m.p. 112-114°C).

reactant | 2,5-dimethyl-4-hydroxy-3-(2H)-furanone | 0.1 mole, 12.8 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | acetaldehyde | 1.0 mole, 44 g | C(C)=O | C2H4O
reactant | oxalic acid | 3.0 g | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 100 ml | O | H2O
product | 2-(1-hydroxyethyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone | 9.4 g, yield of 54% | OC(C)C1(OC(=C(C1=O)O)C)C | C8H12O4
